US08859574B2
A solution of 4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)-1-(4-methoxybenzyl)piperidin-2-one (45 mg) in TFA (0.5 mL) was heated to 100° C. for 24 hr. After cooling down to room temperature, the mixture was concentrated and purified by preparative RP-HPLC to provide 4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-2-one. ESMS m/z 426.2 (M+H+).

reactant | 4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)-1-(4-methoxybenzyl)piperidin-2-one | 45 mg | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1C)C1CC(N(CC1)CC1=CC=C(C=C1)OC)=O)C)NC1=NNC(=C1)C | C29H32ClN7O2
solvent | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-2-one | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1C)C1CC(NCC1)=O)C)NC1=NNC(=C1)C | C21H24ClN7O
